US04816452
b. Ethyl 4-bromo-(Z)-2-(tetrahydrothien-3-yl-oxyimino)-3-oxobutyrate
Ethyl (Z)-2-(tetrahydrothien-3-yloxyimino)-3-oxo-butyrate (1.29 g) was dissolved in a mixture of carbontetrachloride (15 ml), dichloromethane (5 ml) and methanol (2 ml). The mixture was cooled to -26°, a solution of hydrogen bromide in acetic acid (0.05 ml, 45% w/v) was added followed by bromine (0.29 ml). The mixture was allowed to warm to room temperature and stirred for 3 dyys. The solvents were removed under reduced pressure, the residue was partitioned between ethyl acetate and water. The organic layer was washed successively with saturated aqueous sodium bicarbonate, water and brine, then dried (MgSO4) and evaporated. Purification by flash chromatography with dichloromethane elution gave the title compound (0.4 g, 23%) as a pale yellow liquid. νmax (film) 2970, 2940, 1740, 1695, and 1600 cm-1. δH (CDCl3) 1.34 (3H, t), 2.04 (1H, m), 2.48 (1H, m), 2.90 (2H, m), 3.13 (2H, m), 4.33 (2H, s), 4.37 (2H, q), and 5.18 (1H, m). [Mass spectrum: +ve ion MH+ (324)].

reactant | Ethyl (Z)-2-(tetrahydrothien-3-yloxyimino)-3-oxo-butyrate | 1.29 g | S1CC(CC1)O\N=C(/C(=O)OCC)\C(C)=O | C10H15NO4S
reactant | hydrogen bromide | Br | BrH
reactant | bromine | 0.29 ml | BrBr | Br2
solvent | carbontetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
solvent | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
product | Ethyl 4-bromo-(Z)-2-(tetrahydrothien-3-yl-oxyimino)-3-oxobutyrate | 0.4 g, 23% | BrCC(/C(/C(=O)OCC)=N/OC1CSCC1)=O | C10H14BrNO4S
